* Subcircuit 54LS374_sub
.subckt 54LS374_sub net-_u19-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ unconnected-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ unconnected-_u1-pad20_ 
.title kicad schematic
* u12 net-_u1-pad17_ net-_u11-pad2_ unconnected-_u12-pad3_ net-_u10-pad2_ net-_u12-pad5_ unconnected-_u12-pad6_ d_dff
* u17 net-_u13-pad5_ net-_u10-pad2_ net-_u1-pad15_ d_tristate
* u13 net-_u1-pad14_ net-_u11-pad2_ unconnected-_u13-pad3_ net-_u10-pad2_ net-_u13-pad5_ unconnected-_u13-pad6_ d_dff
* u19 net-_u19-pad1_ net-_u10-pad2_ d_buffer
* u4 net-_u1-pad4_ net-_u11-pad2_ unconnected-_u4-pad3_ net-_u10-pad2_ net-_u4-pad5_ unconnected-_u4-pad6_ d_dff
* u8 net-_u4-pad5_ net-_u10-pad2_ net-_u1-pad5_ d_tristate
* u9 net-_u5-pad5_ net-_u10-pad2_ net-_u1-pad6_ d_tristate
* u2 net-_u1-pad11_ net-_u11-pad2_ d_inverter
* u7 net-_u3-pad5_ net-_u10-pad2_ net-_u1-pad2_ d_tristate
* u3 net-_u1-pad3_ net-_u11-pad2_ unconnected-_u3-pad3_ net-_u10-pad2_ net-_u3-pad5_ unconnected-_u3-pad6_ d_dff
* u14 net-_u1-pad13_ net-_u11-pad2_ unconnected-_u14-pad3_ net-_u10-pad2_ net-_u14-pad5_ unconnected-_u14-pad6_ d_dff
* u18 net-_u14-pad5_ net-_u10-pad2_ net-_u1-pad12_ d_tristate
* u16 net-_u12-pad5_ net-_u10-pad2_ net-_u1-pad16_ d_tristate
* u11 net-_u1-pad18_ net-_u11-pad2_ unconnected-_u11-pad3_ net-_u10-pad2_ net-_u11-pad5_ unconnected-_u11-pad6_ d_dff
* u15 net-_u11-pad5_ net-_u10-pad2_ net-_u1-pad19_ d_tristate
* u5 net-_u1-pad7_ net-_u11-pad2_ unconnected-_u5-pad3_ net-_u10-pad2_ net-_u5-pad5_ unconnected-_u5-pad6_ d_dff
* u6 net-_u1-pad8_ net-_u11-pad2_ unconnected-_u6-pad3_ net-_u10-pad2_ net-_u10-pad1_ unconnected-_u6-pad6_ d_dff
* u10 net-_u10-pad1_ net-_u10-pad2_ net-_u1-pad9_ d_tristate
a1 net-_u1-pad17_ net-_u11-pad2_ unconnected-_u12-pad3_ net-_u10-pad2_ net-_u12-pad5_ unconnected-_u12-pad6_ u12
a2 net-_u13-pad5_ net-_u10-pad2_ net-_u1-pad15_ u17
a3 net-_u1-pad14_ net-_u11-pad2_ unconnected-_u13-pad3_ net-_u10-pad2_ net-_u13-pad5_ unconnected-_u13-pad6_ u13
a4 net-_u19-pad1_ net-_u10-pad2_ u19
a5 net-_u1-pad4_ net-_u11-pad2_ unconnected-_u4-pad3_ net-_u10-pad2_ net-_u4-pad5_ unconnected-_u4-pad6_ u4
a6 net-_u4-pad5_ net-_u10-pad2_ net-_u1-pad5_ u8
a7 net-_u5-pad5_ net-_u10-pad2_ net-_u1-pad6_ u9
a8 net-_u1-pad11_ net-_u11-pad2_ u2
a9 net-_u3-pad5_ net-_u10-pad2_ net-_u1-pad2_ u7
a10 net-_u1-pad3_ net-_u11-pad2_ unconnected-_u3-pad3_ net-_u10-pad2_ net-_u3-pad5_ unconnected-_u3-pad6_ u3
a11 net-_u1-pad13_ net-_u11-pad2_ unconnected-_u14-pad3_ net-_u10-pad2_ net-_u14-pad5_ unconnected-_u14-pad6_ u14
a12 net-_u14-pad5_ net-_u10-pad2_ net-_u1-pad12_ u18
a13 net-_u12-pad5_ net-_u10-pad2_ net-_u1-pad16_ u16
a14 net-_u1-pad18_ net-_u11-pad2_ unconnected-_u11-pad3_ net-_u10-pad2_ net-_u11-pad5_ unconnected-_u11-pad6_ u11
a15 net-_u11-pad5_ net-_u10-pad2_ net-_u1-pad19_ u15
a16 net-_u1-pad7_ net-_u11-pad2_ unconnected-_u5-pad3_ net-_u10-pad2_ net-_u5-pad5_ unconnected-_u5-pad6_ u5
a17 net-_u1-pad8_ net-_u11-pad2_ unconnected-_u6-pad3_ net-_u10-pad2_ net-_u10-pad1_ unconnected-_u6-pad6_ u6
a18 net-_u10-pad1_ net-_u10-pad2_ net-_u1-pad9_ u10
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u12 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u17 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u13 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u19 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u4 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u8 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u9 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u7 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u3 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u14 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u18 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u16 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u11 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u15 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u5 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u6 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u10 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Control Statements

.ends 54LS374_sub